US07960401B2
A mixture of 5-chloro-4′-cyano-3-fluoro-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (0.05 g) and lithium tri-tert-butoxyaluminohydride (0.57 ml), 1M solution in THF) in 1-4-dioxane (0.75 ml) was refluxed under nitrogen for 4 hrs. After cooling, 1 N NaOH and H2O and ethyl acetate were added slowly to the mixture at 0° C. The aqueous phase was extracted twice with ethyl acetate and the combined organic layers were washed with saturated sodium bicarbonate, dried (sodium sulfate), filtered and concentrated in vacuo. The crude product was purified by chromatography [SiO2; hexane-ethyl acetate-triethylamine (75:25:1)] to give 18 mg g (38%) of 6-chloro-4-aza-spiro[indoline-3,4′-piperidine]-1′-carboxylic acid tert-butylester; MS (ES+) 324 (M+H+).

reactant | 5-chloro-4′-cyano-3-fluoro-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 0.05 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=NC=C(C=C1F)Cl)C#N | C16H19ClFN3O2
reactant | lithium tri-tert-butoxyaluminohydride | 0.57 ml | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | 1-4-dioxane | 0.75 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4-aza-spiro[indoline-3,4′-piperidine]-1′-carboxylic acid tert-butylester | 38% | C(C)(C)(C)OC(=O)N1CCC2(CC1)CNC1=CC(=CN=C12)Cl | C16H22ClN3O2
